US05527819
Step A: N-(phenylthio)succinimide
To a partial solution of N-chlorosuccinimide (3.34 g, 25 mmol) in dry methylene chloride (30 mL), cooled in an ice bath and under an inert atmosphere, was added thiophenol (2.05 mL, 20 mmol) via syringe. After stirring for 1 hour, additional N-chlorosuccinimide (0.40 g, 3 mmol) was added. After 2.5 hours total, triethylamine (3.9 mL, 28 mmol) was added dropwise. Within 15 minutes the reaction mixture was diluted with methylene chloride, the solvent washed with dilute aq. HCl and the solvent then dried (Na2SO4), filtered through a pad of charcoal and evaporated. The residue was triturated with diethyl ether and the product collected by filtration to yield the title compound mp 115°-116° C. [lit. mp 115°-116° C., J. Org. Chem., 34, 51 (1969)]. This material was used as is.

reactant | N-chlorosuccinimide | 25 mmol, 3.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | thiophenol | 20 mmol, 2.05 mL | C1(=CC=CC=C1)S | C6H6S
reactant | N-chlorosuccinimide | 3 mmol, 0.40 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | triethylamine | 28 mmol, 3.9 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(phenylthio)succinimide | C1(=CC=CC=C1)SN1C(CCC1=O)=O | C10H9NO2S
